US06313107B1
2,6-Di-tert-butyl-4-trimethylsilanylethynyl-phenol:
Following General Procedure D and using 4-bromo-2,6-di-t-butyl-phenol (1.43 g, 5 mmol), triethyl amine (15 mL), anhydrous tetrahydrofuran (15 mL), copper(I)iodide (0.06 g, 0.31 mmol), trimethylsilyl acetylene (4.9 g, 50 mmol) and dichlorobis(triphenylphosphine)palladium(II) (0.18 g, 0.26 mmol) followed by flash column chromatography over silica gel (230-400 mesh) using hexane as eluent, the title compound was obtained (1.35 g, 90%).

reactant | 4-bromo-2,6-di-t-butyl-phenol | 5 mmol, 1.43 g | BrC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C14H21BrO
reactant | triethyl amine | 15 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | trimethylsilyl acetylene | 50 mmol, 4.9 g | C[Si](C)(C)C#C | C5H10Si
solvent | hexane | CCCCCC | C6H14
catalyst | copper(I)iodide | 0.31 mmol, 0.06 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.26 mmol, 0.18 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2,6-Di-tert-butyl-4-trimethylsilanylethynyl-phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C#C[Si](C)(C)C)C(C)(C)C)O | C19H30OSi
